### PR TITLE
[Merged by Bors] - feat(Order): more API for krull dimensions

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/RelSeries.lean [hunk 1]
```diff
@@ -652,6 +664,30 @@ lemma Rel.finiteDimensional_or_infiniteDimensional [Nonempty α] :
   rw [← not_finiteDimensional_iff]
   exact em r.FiniteDimensional
 
+variable {r} in
+lemma Rel.finiteDimensional_swap_iff :
```
Comment (TwoFX) [inline Mathlib/Order/RelSeries.lean:668]: The name suggests that the `iff` is reversed compared to the actual statement, so I think either the statement or the name should change.

Also, how about providing implication variants `FiniteDimensional.swap` and `FiniteDimensional.of_swap`? The former could even be an instance.

Comment (acmepjz) [reply Mathlib/Order/RelSeries.lean:668]: I think it's best to change the statement to `FiniteDimensional (Function.swap r) ↔ FiniteDimensional r` (in this way it matches the theorem name, moreover I think it could be a `simp` lemma).

File: Mathlib/Algebra/Order/SuccPred/WithBot.lean [hunk 2]
```diff
@@ -26,4 +26,8 @@ lemma succ_one : succ (1 : WithBot α) = 2 := by simpa [one_add_one_eq_two] usin
 lemma succ_ofNat (n : ℕ) [n.AtLeastTwo] :
     succ (ofNat(n) : WithBot α) = ofNat(n) + 1 := succ_natCast n
 
+lemma one_le_iff_pos {α : Type*} [PartialOrder α] [AddMonoidWithOne α]
+    [ZeroLEOneClass α] [NeZero (1 : α)] [SuccAddOrder α] (a : WithBot α) : 1 ≤ a ↔ 0 < a := by
+  cases' a with a <;> simp [Order.one_le_iff_pos]
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/Algebra/Order/SuccPred/WithBot.lean:31]: This works:
```suggestion
  cases a <;> simp [Order.one_le_iff_pos]
```

**Review by acmepjz — COMMENTED** [review]
Looks good to me. Any progresses?

**Review by chrisflav — APPROVED** [review]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by erdOne** [comment]
bors merge
